US05607898
A 30-ml eggplant type flask was charged with 0.18 g (0.50 mmol) of 4,5,8-trimethyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide, 5 ml of dichloromethane, 5 ml of water and 0.07 g (0.50 mmol, 1 equivalent) of potassium carbonate, and a solution of 0.10 g (0.55 mmol, 1.1 equivalents) of p-toluenesulfonyl chloride in 1 ml of dichloromethane was dropwise added with stirring at room temperature. 5 mg of benzyltriethylammonium chloride (BTEAC) was added, and the mixture was allowed to react at the above temperature for 2 hours and then liquid-separated. An aqueous layer was extracted with dichloromethane. An organic layer was washed with a saturated sodium chloride aqueous solution and dried over sodium sulfate. The solvent was distilled off to give 0.30 g of a crude product, which was then recrystalized from ethanol to give 0.20 g (yield 77%) of 4,5,8-trimethyl-6-(1-ethyl-5-p-toluenesulfonyloxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide (Compound No. 52).

reactant | 4,5,8-trimethyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | 0.50 mmol, 0.18 g | CC1CCS(C2=C(C=C(C(=C12)C)C(=O)C=1C=NN(C1O)CC)C)(=O)=O | C18H22N2O4S
reactant | water | 5 ml | O | H2O
reactant | potassium carbonate | 0.50 mmol, 0.07 g, 1 equivalent | C([O-])([O-])=O.[K+].[K+]
reactant | p-toluenesulfonyl chloride | 0.55 mmol, 0.10 g, 1.1 equivalents | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
catalyst | benzyltriethylammonium chloride | 5 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4,5,8-trimethyl-6-(1-ethyl-5-p-toluenesulfonyloxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | 0.20 g, yield 77% | CC1CCS(C2=C(C=C(C(=C12)C)C(=O)C=1C=NN(C1OS(=O)(=O)C1=CC=C(C=C1)C)CC)C)(=O)=O | C25H28N2O6S2
